US07981903B2
To a solution of 4-fluoro-2-(methyloxy)-1-nitrobenzene (1 g, 5.8 mmol) in 20 mL of anhydrous DMF was added 1,1-dimethylethyl 4-(hydroxymethyl)-1-piperidinecarboxylate (1.5 g, 7.0 mmol). Sodium hydride (60%) (448 mg, 11.68 mmol) was added portionwise. Reaction was stirred at rt for 60 min at which time the reaction was diluted with ethyl acetate and washed with a minimum amount of a saturated solution of sodium bicarbonate, water and a saturated sodium chloride solution, dried over Na2SO4 and filtered. Solvents were removed under reduced pressure and the resulting residue was dissolved in dichloromethane (20 mL) and trifluoroacetic acid (4.5 mL, 58.4 mmol) was added and the mixture was stirred for 30 min at rt. Solvents were removed under reduced pressure and the resulting residue was dissolved in acetonitrile (20 mL) and 1-iodopropane (0.63 mL, 6.4 mmol) and potassium carbonate (2.4 g, 17.52 mmol) were added and stirred at rt for 16 h. Subsequently the reaction mixture was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated sodium chloride solution. The organic layer was dried over Na2SO4 and filtered. Solvents were removed under reduced pressure and the residue was purified by SiO2 chromatography to afford 4-({[3-(methyloxy)-4-nitrophenyl]oxy}methyl)-1-propylpiperidine (0.9 g, 2.92 mmol). (ESIMS (M+H)+=309)

reactant | 4-fluoro-2-(methyloxy)-1-nitrobenzene | 5.8 mmol, 1 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 1,1-dimethylethyl 4-(hydroxymethyl)-1-piperidinecarboxylate | 7.0 mmol, 1.5 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | Sodium hydride | 11.68 mmol, 448 mg | [H-].[Na+]
reactant | trifluoroacetic acid | 58.4 mmol, 4.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-iodopropane | 6.4 mmol, 0.63 mL | ICCC | C3H7I
reactant | potassium carbonate | 17.52 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-({[3-(methyloxy)-4-nitrophenyl]oxy}methyl)-1-propylpiperidine | 2.92 mmol, 0.9 g | COC=1C=C(C=CC1[N+](=O)[O-])OCC1CCN(CC1)CCC | C16H24N2O4
